US06403561B1
Preparation of 3,3-dimethylindoline-2(R/S)-carboxylic Acid Butylamide
Butylamine (15 ml) in toluene (40 ml) was cooled to −78° C. and a 2.5M solution of butyllithium in hexane (12.91 ml, 31.5 mmol) was added dropwise. After half an hour, ethyl 3,3-dimethylindoline-2(R/S)-carboxylate (4.600 g, 21 mmol) was added to the solution and this mixture was stirred under nitrogen for three hours. The mixture was then poured into a water/ice mixture (50 ml) and extracted with ethyl acetate; the extracts were dried over magnesium sulphate and the solvent was removed to give a brown oil. This was purified by chromatography on a column of silica gel, using a 7/3 petroleum ether/ethyl acetate mixture as eluent in order to give a yellow solid.

reactant | Butylamine | 15 ml | C(CCC)N | C4H11N
reactant | butyllithium | C(CCC)[Li]
reactant | hexane | 31.5 mmol, 12.91 ml | CCCCCC | C6H14
reactant | ethyl 3,3-dimethylindoline-2(R/S)-carboxylate | 21 mmol, 4.600 g | CC1(C(NC2=CC=CC=C12)C(=O)OCC)C | C13H17NO2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3,3-dimethylindoline-2(R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1NC2=CC=CC=C2C1(C)C | C15H22N2O
